US05071853
Methyl 1-(benzoyl)-3-[(2-bromophenyl)methyl]-4-oxo-3-piperidinecarboxylic acid
To a solution of potassium t-butoxide (16.8 g, 0.15 mol) in t-butanol (300 ml) was added methyl 1-benzoyl-4-oxo-3-piperidinecarboxylic acid (36.1 g, 0.146 mol) according to the method of G. Stork, J. Am. Chem. Soc. 68, 1053 (1946). The mixture was stirred 1 hour and 2-bromobenzyl bromide was added dropwise in a solution of t-butanol. The reaction was heated to reflux for 2 days, cooled and filtered. The salts were washed with ether and the organic filtrate was washed with 5% hydrochloric acid (100 ml), saturated sodium bicarbonate (100 ml), water (100 ml) and saturated sodium chloride (100 ml). The organic layer was dried (MgSO4), filtered, and concentrated to yield a crude oil. The material was recrystallized from isopropyl ether to yield a pale yellow solid (23.4 g, 37%) An additional recrystallization produced the title compound a white solid, mp 105°-107° C.

reactant | potassium t-butoxide | 0.15 mol, 16.8 g | CC(C)([O-])C.[K+]
reactant | methyl 1-benzoyl-4-oxo-3-piperidinecarboxylic acid | 0.146 mol, 36.1 g | CC1N(CCC(C1C(=O)O)=O)C(C1=CC=CC=C1)=O | C14H15NO4
reactant | 2-bromobenzyl bromide | BrC1=C(CBr)C=CC=C1 | C7H6Br2
solvent | t-butanol | 300 ml | C(C)(C)(C)O | C4H10O
product | Methyl 1-(benzoyl)-3-[(2-bromophenyl)methyl]-4-oxo-3-piperidinecarboxylic acid | 23.4 g, 37% | CC1N(CCC(C1(C(=O)O)CC1=C(C=CC=C1)Br)=O)C(C1=CC=CC=C1)=O | C21H20BrNO4
